US07589088B2
A solution of ethyl 4-chloro-6-(2,4-dichlorophenyl)-2-phenylpyrimidine-5-carboxylate (30 mg, 0.07 mmol) and phenyl boronic acid (14 mg, 0.11 mmol) in toluene (3 mL) was degassed with argon for 15 minutes. To this solution was added Pd(PPh3)4 (9 mg, 0.007 mmol), Na2CO3 (23 mg, 0.22 mmol) and the reaction was heated to reflux for 3 days. The reaction was diluted with EtOAc (20 mL) and extracted with saturated NH4Cl solution (2×20 mL), brine (20 mL). The organic layer was dried (MgSO4), filtered and concentrated under reduced pressure. The crude reaction product was purified by flash chromatography (silica gel, 20% EtOAc/hexane) to give ethyl 4-(2,4-dichlorophenyl)-2,6-diphenylpyrimidine-5-carboxylate (14 mg, 42%).

reactant | ethyl 4-chloro-6-(2,4-dichlorophenyl)-2-phenylpyrimidine-5-carboxylate | 0.07 mmol, 30 mg | ClC1=NC(=NC(=C1C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C19H13Cl3N2O2
reactant | phenyl boronic acid | 0.11 mmol, 14 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 0.22 mmol, 23 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.007 mmol, 9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 4-(2,4-dichlorophenyl)-2,6-diphenylpyrimidine-5-carboxylate | 14 mg, 42% | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC(=C1C(=O)OCC)C1=CC=CC=C1)C1=CC=CC=C1 | C25H18Cl2N2O2
